US04455441
Following the procedure described in Example 6 using 353.6 mg (1.26 mmol) of 14-fluoro-(Z)-3-tetradecen-1-yl tetrahydropyranyl ether and 350 mg Dowex in about 10 ml of methanol affords 14-fluoro-(Z)-3-tetradecen-1-ol. Purification by flash chromatography affords 14-fluoro-(Z)-3-tetradecen-1-ol (211.8 mg, 73%) as a clear colorless oil: Rf=0.27, hexane/ethyl acetate (7:3, v/v); IR (film) ν3200-3500 (OH), 3025 (alkane CH); and 1H-NMR (CDCl3) δ1.20-1.70 (m, 16H), 2.10 (m, 2H), 2.39 (br q, J=5 Hz, 2H), 3.65 (t, J=6 Hz, 2H), 4.41 (dt, J=48 Hz, 6 Hz, 2H), 5.45 (m, 2H).

reactant | 14-fluoro-(Z)-3-tetradecen-1-yl tetrahydropyranyl ether | 1.26 mmol, 353.6 mg | O1C(CCCC1)OCC\C=C/CCCCCCCCCCF | C19H35FO2
solvent | methanol | about 10 ml | CO | CH4O
product | 14-fluoro-(Z)-3-tetradecen-1-ol | FCCCCCCCCCC\C=C/CCO | C14H27FO
